US06982348B2
3) benzyl 3-oxo-3-[4-(pyridin-2-yloxy)phenyl]propanoate
To 4-(pyridin-2-yloxy)benzoic acid (20 g, 92.9 mmol) in tetrahydrofuran (300 ml) was added N,N′-carbonyldiimidazole (16.6 g, 102 mmol), and the mixture was heated under reflux for 1 hr. After cooling the reaction solution to room temperature, monobenzyl malonate magnesium salt (21 g, 51.2 mmol) was added, and the mixture was heated under reflux for 2 hrs. The reaction solution was concentrated and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give the objective substance (20.6 g, 64%).

reactant | 4-(pyridin-2-yloxy)benzoic acid | 92.9 mmol, 20 g | N1=C(C=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C12H9NO3
reactant | monobenzyl malonate magnesium salt | 51.2 mmol, 21 g | [Mg+].C(CC(=O)[O-])(=O)OCC1=CC=CC=C1
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | benzyl 3-oxo-3-[4-(pyridin-2-yloxy)phenyl]propanoate | O=C(CC(=O)OCC1=CC=CC=C1)C1=CC=C(C=C1)OC1=NC=CC=C1 | C21H17NO4
